US06743939B2
a) 6-Methyl-4-oxoheptylcarbamic acid 1,1-dimethylethyl ester
A solution of 1,1-dimethylethyl 2-oxo-1-pyrrolidinecarboxylate (7.5 g, 40.5 mmol) in dry tetrahydrofuran (150 ml) under a nitrogen atmosphere and at −78° C., was treated dropwise with a solution of isobutyl magnesium bromide in diethyl ether (2 molar, 22.5 ml, 45 mmol). The mixture was stirred at −78° C. for 2h then quenched into a saturated aqueous solution of ammonium chloride (100 ml). The products were extracted into ethyl acetate (2×250 ml) and the combined extracts dried over magnesium sulphate. Concentration of the extracts gave an oil which was purified on silica gel using isohexane/diethylether (1:1). The title compound was isolated as a colourless oil (2.3 g, 25%).

reactant | 1,1-dimethylethyl 2-oxo-1-pyrrolidinecarboxylate | 40.5 mmol, 7.5 g | O=C1N(CCC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | isobutyl magnesium bromide | C(C(C)C)[Mg]Br
reactant | diethyl ether | 45 mmol, 2 molar, 22.5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-Methyl-4-oxoheptylcarbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NCCCC(CC(C)C)=O)=O | C13H25NO3
